US08242133B2
A mixture of 2.07 g of 5-tert-butyl-2-(3-fluoropyridin-4-yl)benzoxazole, 4.23 g of potassium carbonate and 8 ml of benzyl alcohol was stirred while heating at 100° C. for 8.5 hours. The reaction mixture was cooled to room temperature, and then water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 2.2 g of 2-(3-benzyloxypyridin-4-yl)-5-tert-butylbenzoxazole (hereinafter, referred to as “active compound 102”).

reactant | 5-tert-butyl-2-(3-fluoropyridin-4-yl)benzoxazole | 2.07 g | C(C)(C)(C)C=1C=CC2=C(N=C(O2)C2=C(C=NC=C2)F)C1 | C16H15FN2O
reactant | potassium carbonate | 4.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl alcohol | 8 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | water | O | H2O
product | 2-(3-benzyloxypyridin-4-yl)-5-tert-butylbenzoxazole | 2.2 g | C(C1=CC=CC=C1)OC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(C)(C)C | C23H22N2O2
